US08486946B2
Step 2: Preparation of 2-(2,3-dimethylphenyl)-5-[(6′-methyl-2,3′-bipyridin-5-yl)methyl]-2,5-dihydro-3H-pyrazolo[4,3-c]cinnolin-3-one
5-[(6-Bromopyridin-3-yl)methyl]-2-(2,3-dimethylphenyl)-2,5-dihydro-3H-pyrazolo[4,3-c]cinnolin-3-one (0.10 g, 0.22 mmol), (6-methylpyrdin-3-yl)-boronic acid (74 mg, 0.54 mmol, 2.5 equiv), palladium(II)acetate (9.7 mg, 0.043 mmol, 0.2 equiv), 1,1′-bis(diphenylphosphino)ferrocene (24 mg, 0.043 mmol, 0.2 equiv), copper(I)chloride (21 mg, 0.22 mmol, 1 equiv) and cesium carbonate (0.18 g, 0.54 mmol, 2.5 equiv) were combined in N,N-dimethylformamide (4 mL) and placed into an oil bath preheated to 100° C. for 60 minutes. The mixture was cooled to ambient temperature, poured into sodium bicarbonate (20 mL, aqueous saturated) and extracted with ethyl acetate (3×25 mL). The combined organic extracts were dried with sodium sulfate, filtered and concentrated in vacuo. The residue was purified by silica gel chromatography (100:0 to 90:10; dichloromethane:methanol), providing the titled compound as a deep red solid: 1H-NMR (400 MHz, CDCl3) δ 9.06 (1H, d, J=2.1 Hz), 8.78 (1H, d, J=1.7 Hz), 8.32 (1H, dd, J=7.8, 1.0 Hz), 8.19 (1H, dd, J=8.1, 2.3 Hz), 7.77 (1H, dd, J=8.3, 2.4 Hz), 7.72 (1H, d, J=8.3 Hz), 7.65-7.54 (3H, m), 7.42-7.38 (1H, m), 7.30-7.22 (3H, m), 5.90 (2H, s), 2.61 (3H, s), 2.37 (3H, s), 2.20 (3H, s) ppm; high resolution mass spectrometry (ES+) m/z 473.2099 [(M+H)+; calculated for C29H25N6O: 473.2084].

reactant | 5-[(6-Bromopyridin-3-yl)methyl]-2-(2,3-dimethylphenyl)-2,5-dihydro-3H-pyrazolo[4,3-c]cinnolin-3-one | 0.22 mmol, 0.10 g | BrC1=CC=C(C=N1)CN1N=C2C(C=3C=CC=CC13)=NN(C2=O)C2=C(C(=CC=C2)C)C | C23H18BrN5O
reactant | (6-methylpyrdin-3-yl)-boronic acid | 0.54 mmol, 74 mg, 2.5 equiv | CC1=CC=C(C=N1)B(O)O | C6H8BNO2
reactant | cesium carbonate | 0.54 mmol, 0.18 g, 2.5 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | sodium bicarbonate | 20 mL | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
catalyst | palladium(II)acetate | 0.043 mmol, 9.7 mg, 0.2 equiv | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.043 mmol, 24 mg, 0.2 equiv | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | copper(I)chloride | 0.22 mmol, 21 mg, 1 equiv | [Cu]Cl
product | 2-(2,3-dimethylphenyl)-5-[(6′-methyl-2,3′-bipyridin-5-yl)methyl]-2,5-dihydro-3H-pyrazolo[4,3-c]cinnolin-3-one | CC1=C(C=CC=C1C)N1N=C2C(=NN(C=3C=CC=CC23)CC=2C=CC(=NC2)C=2C=NC(=CC2)C)C1=O | C29H24N6O
